US05008267
(2) Preparation of 6-(aziridin-1-yl)-1,3-dimethyl-5-nitro-2,4(1H,3H)-pyrimidinedione
6-(2-methanesulfonyloxyethylamino)-1,3-dimethyl-5-nitro-2,4(1H,3H)-pyrimidinedione (5.8 g) was dissolved in 70 ml of acetonitrile and added with 3.8 g of potassium carbonate. The reaction was carried out under heating with reflux for 3 hours. The reaction mixture as cooled down to room temperature; insoluble materials were removed by filtration. The filtrate was concentrated to a volume of 20 ml, added with 100 ml of ether and then stored refrigerated for 2 days. Crystals formed were collected by filtration and washed with hexane; thus 1.0 g of a powdery compound, 6-aziridin-1-yl)-1,3-dimethyl-5-nitro-2,4(1H,3)-pyrimidinedione, was obtained.

reactant | 6-(2-methanesulfonyloxyethylamino)-1,3-dimethyl-5-nitro-2,4(1H,3H)-pyrimidinedione | 5.8 g | CS(=O)(=O)OCCNC1=C(C(N(C(N1C)=O)C)=O)[N+](=O)[O-] | C9H14N4O7S
reactant | potassium carbonate | 3.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 6-(aziridin-1-yl)-1,3-dimethyl-5-nitro-2,4(1H,3H)-pyrimidinedione | 1.0 g | N1(CC1)C1=C(C(N(C(N1C)=O)C)=O)[N+](=O)[O-] | C8H10N4O4
